US07872028B2
To a solution of tert-butyl (2S,3R)-1-cyclohexyl-4-(3,5-dimethoxybenzylamino)-3-hydroxybutan-2-ylcarbamate (66.5 mg, 0.153 mmol) in CH2Cl2 (10 mL) at 0° C. was added DIEA (1.5 mL) followed by 9-fluorenylmethyl chloroformate (39.5 mg, 0.153 mmol) and the resulting mixture was stirred at 0° C. for 2 h and at rt for 2 h. The reaction mixture was concentrated and the residue was diluted with EtOAc and water. The organics were washed with water, dried over Na2SO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel to provide (2R,3S)-3-(t-butoxycarbonylamino)-4-cyclohexyl-1-(N-(3,5-dimethoxybenzyl)-N-((9H-fluoren-9-yl)methoxycarbonyl)amino)butan-2-ol (78.5 mg, 78%). 1H NMR: 0.79 (m, 1H), 0.95 (m, 1H), 1.06-1.38 (m, 6H), 1.42 (s, 9H), 1.56-1.70 (m, 6H), 1.83 (m, 1H), 3.25-3.50 (m, 2H), 3.70 (m, 1H), 3.73 (s, 6H), 3.85 (m, 1H), 4.22 (m, 1H), 4.29-4.70 (m, 5H), 6.35 (m, 3H), 7.20 (m, 1H), 7.32-7.48 (m, 4H), 7.58 (m, 1H), 7.69 (m, 1H), 7.75 (m, 1H). MS (E/Z): 659 (M+H+).

reactant | tert-butyl (2S,3R)-1-cyclohexyl-4-(3,5-dimethoxybenzylamino)-3-hydroxybutan-2-ylcarbamate | 0.153 mmol, 66.5 mg | C1(CCCCC1)C[C@@H]([C@@H](CNCC1=CC(=CC(=C1)OC)OC)O)NC(OC(C)(C)C)=O | C24H40N2O5
reactant | DIEA | 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 9-fluorenylmethyl chloroformate | 0.153 mmol, 39.5 mg | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S)-3-(t-butoxycarbonylamino)-4-cyclohexyl-1-(N-(3,5-dimethoxybenzyl)-N-((9H-fluoren-9-yl)methoxycarbonyl)amino)butan-2-ol | 78.5 mg, 78% | C(C)(C)(C)OC(=O)N[C@H]([C@@H](CN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC1=CC(=CC(=C1)OC)OC)O)CC1CCCCC1 | C39H50N2O7
